### PR TITLE
feat: verify `toList` for hash maps

### PR DESCRIPTION
**Pull request by jt0202**
This PR verifies the `toList`function for hash maps and dependent hash maps.

### CODE REVIEW

**Comment by jt0202** [comment]
This is currently WIP. If you think further lemmas are useful let me know. One lemma is currently unproven, because there are some problems with casting. As with previous PRs I will first only work in Internal/RawLemmas.lean.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 1]
```diff
@@ -847,13 +849,27 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
 
+theorem length_toList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
+    m.1.toList.length = m.1.size := by
+  simp_to_model
+
+theorem isEmpty_toList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
+    m.1.toList.isEmpty = m.1.isEmpty := by
+  simp_to_model
+
+theorem mem_toList_iff_get?_eq_some [LawfulBEq α] (h : m.1.WF)
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:868]: I think we also need a version of this lemma that only requires `EquivBEq` and `LawfulHashable`. Probably a bit awkward to state; something like `m.1.toList.find (· == k) = some ⟨k', v⟩ ↔ k == k' ∧ m.get? k = some v`??

Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:868]: `Raw₀.get?` requires by definition `LawfulBEq`. Your lemma is probably only useful for `Const.get?` and `Const.toList`.

Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:868]: Right, yes, sorry. One day we will have `getEntry?` and then we can state the theory I was thinking of.

Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:868]: > I think we also need a version of this lemma that only requires `EquivBEq` and `LawfulHashable`. Probably a bit awkward to state; something like `m.1.toList.find? (· == k) = some ⟨k', v⟩ ↔ k == k' ∧ m.get? k = some v`??

I think this lemma is not even true in general. Suppose that the hashmap contains some element `k''` with `v`, which is beq to both `k` and `k'`, but not equal by definition.  The right side holds, but the left side won't be true. 
We need that `k'` is actually the key that is present in `m`, i.e. `m.getKey? k = some k'`.

File: src/Init/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -512,6 +512,9 @@ theorem isEmpty_iff_length_eq_zero {l : List α} : l.isEmpty ↔ l.length = 0 :=
 @[simp] theorem isEmpty_eq_false {l : List α} : l.isEmpty = false ↔ l ≠ [] := by
   cases l <;> simp
 
+@[simp] theorem isEmpty_map {l : List α} {f: α → β} : (l.map f).isEmpty = l.isEmpty := by
```
Comment (jt0202) [inline src/Init/Data/List/Lemmas.lean:515]: I required this in one the proofs and it appeared to general to lay in the internal part of the hashmaps. Surprisingly, `exact` did not find anything for it.

Comment (jt0202) [reply src/Init/Data/List/Lemmas.lean:515]: Thinking further about it. This is unnecessary. I will remove it.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 1 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:869]: Yes, good idea!

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 3]
```diff
@@ -847,13 +850,62 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+    (k : α) (v : β) :
+    (k, v) ∈ (Raw.Const.toList m.1) ↔ get? m k = some v := by
+  simp_to_model using List.mem_map_toProd_iff_getValue?_eq_some
+
+theorem find?_toList_eq_some_iff_getKey?_eq_some_and_getValue?_eq_some
+    [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k k': α} {v : β} :
+    (Raw.Const.toList m.1).find? (fun a => a.1 == k) = some ⟨k', v⟩
+    ↔ m.getKey? k = some k' ∧ get? m k = some v := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:899]:
```suggestion
    (Raw.Const.toList m.1).find? (fun a => a.1 == k) = some ⟨k', v⟩ ↔
      m.getKey? k = some k' ∧ get? m k = some v := by
```
(cf. [our brand-new style guide](https://github.com/leanprover/lean4/blob/master/doc/std/style.md)!)

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 4]
```diff
@@ -847,13 +850,62 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+  simp_to_model using List.length_map
+
+theorem isEmpty_toList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
+    (Raw.Const.toList m.1).isEmpty = m.1.isEmpty := by
+  simp_to_model
+  rw [Bool.eq_iff_iff, List.isEmpty_iff,List.isEmpty_iff, List.map_eq_nil_iff]
+
+theorem mem_toList_iff_get?_eq_some [LawfulBEq α] (h : m.1.WF)
+    (k : α) (v : β) :
+    (k, v) ∈ (Raw.Const.toList m.1) ↔ get? m k = some v := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:893]:
```suggestion
    (k, v) ∈ Raw.Const.toList m.1 ↔ get? m k = some v := by
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 5]
```diff
@@ -847,13 +850,62 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+theorem mem_toList_iff_get?_eq_some [LawfulBEq α] (h : m.1.WF)
+    (k : α) (v : β k) :
+    ⟨k, v⟩ ∈ m.1.toList ↔ m.get? k = some v := by
+  simp_to_model using List.mem_iff_getValueCast?_eq_some
+
+namespace Const
+
+variable {β : Type v} (m : Raw₀ α (fun _ => β))
+
+theorem keys_def [EquivBEq α] [LawfulHashable α] :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:878]: I think I would call this `keys_eq_map_toList`. With `def` you basically have no way of knowing what the lemma says without looking at it, which is why [our new naming conventions](https://github.com/leanprover/lean4/blob/master/doc/std/naming.md) recommend avoiding it in public APIs.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 6]
```diff
@@ -847,13 +850,62 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+theorem isEmpty_toList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
+    (Raw.Const.toList m.1).isEmpty = m.1.isEmpty := by
+  simp_to_model
+  rw [Bool.eq_iff_iff, List.isEmpty_iff,List.isEmpty_iff, List.map_eq_nil_iff]
+
+theorem mem_toList_iff_get?_eq_some [LawfulBEq α] (h : m.1.WF)
+    (k : α) (v : β) :
+    (k, v) ∈ (Raw.Const.toList m.1) ↔ get? m k = some v := by
+  simp_to_model using List.mem_map_toProd_iff_getValue?_eq_some
+
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:895]: I think it would also be good to have a lemma stating something like `m.toList.find (·.1 == k) = none ↔ ¬k ∈ m`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 7]
```diff
@@ -847,13 +850,62 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+theorem find?_toList_eq_some_iff_getKey?_eq_some_and_getValue?_eq_some
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:896]: One more variation of this could be useful: `m.get? k = some v ↔ ∃ k', k' == k ∧ ⟨k', v⟩ ∈ m.toList`

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 8]
```diff
@@ -847,13 +850,62 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+
+theorem length_toList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
+    (Raw.Const.toList m.1).length = m.1.size := by
+  simp_to_model using List.length_map
+
+theorem isEmpty_toList [EquivBEq α] [LawfulHashable α] (h : m.1.WF) :
+    (Raw.Const.toList m.1).isEmpty = m.1.isEmpty := by
+  simp_to_model
+  rw [Bool.eq_iff_iff, List.isEmpty_iff,List.isEmpty_iff, List.map_eq_nil_iff]
+
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:890]: I think it would also make sense to have a version of `distinct_keys` stated in terms of `toList`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 9]
```diff
@@ -847,13 +850,90 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+  simp_to_model using List.mem_iff_getValueCast?_eq_some
+
+theorem find?_toList_eq_some_iff_get?_eq_some [LawfulBEq α]
+    (h : m.1.WF) {k : α} {v : β k} :
+    m.1.toList.find? (·.1 == k) = some ⟨k, v⟩ ↔ m.get? k = some v := by
+  simp_to_model using List.find?_eq_some_iff_getValueCast?_eq_some
+
+theorem find?_toList_eq_none_iff_contains_eq_false [EquivBEq α] [LawfulHashable α]
+    (h : m.1.WF) {k : α} :
+    m.1.toList.find? (·.1 == k) = none ↔ m.contains k = false := by
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:881]: Is there a specific reason why you went with `m.contains k = false` here instead of `¬k ∈ m`? We usually try to encourage the use of `∈` over `contains`  in `Prop` contexts.

Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:881]: We are at the Raw0 level. `∈` is only defined starting at `Raw` or `DHashMap`.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 10]
```diff
@@ -847,13 +850,90 @@ theorem contains_keys [EquivBEq α] [LawfulHashable α] (h : m.1.WF) {k : α} :
...
+    (Raw.Const.toList m.1).find? (fun a => a.1 == k) = some ⟨k', v⟩ ↔
+      m.getKey? k = some k' ∧ get? m k = some v := by
+  simp_to_model using List.find?_map_toProd_eq_some_iff_getKey?_eq_some_and_getValue?_eq_some
+
+theorem find?_toList_eq_none_iff_contains_eq_false [EquivBEq α] [LawfulHashable α]
+    (h : m.1.WF) {k : α} :
+    (Raw.Const.toList m.1).find? (·.1 == k) = none ↔ m.contains k = false := by
+  simp_to_model using List.find?_map_eq_none_iff_containsKey_eq_false
+
+theorem mem_toList_iff_getKey?_eq_some_and_getValue?_eq_some [EquivBEq α] [LawfulHashable α]
```
[the remark this answers is not in the document]
Comment (jt0202) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:926]: Line 905?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 9 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:881]: Ugh, sorry, I was confused because this was changed in the upcoming tree map.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:926]: Wow, I'm blind!

**Comment by TwoFX** [comment]
`RawLemmas` statements look good to me. Will take a look at the proofs in a bit.

**Comment by jt0202** [comment]
I am sorry, I wanted to rebase my PR to get rid of the merge conflict, but this somehow created all the extra review requests. How to fix this?

**Comment by TwoFX** [comment]
Since the PR is still a draft the review requests should go away again once you fix your branch to only contain the correct commits.

**Comment by TwoFX** [comment]
It's difficult to review while the GitHub diff view is confused so I'll wait until you repaired your git history, but I have one remark: the new results in `AssoList/Lemmas.lean` are not required, the required results are all there in `WF.lean`, see https://github.com/leanprover/lean4/commit/c605c1662b0abfe337f9f75fe72674e574f06d5f.

**Comment by jt0202** [comment]
> It's difficult to review while the GitHub diff view is confused so I'll wait until you repaired your git history, but I have one remark: the new results in `AssoList/Lemmas.lean` are not required, the required results are all there in `WF.lean`, see [c605c16](https://github.com/leanprover/lean4/commit/c605c1662b0abfe337f9f75fe72674e574f06d5f).

Ok, I have repaired it and used your changes. Additionally, I dropped lemmas in `WF.lean` that are no longer necessary. Now I only have to try again to get rid of the merge conflict.

**Comment by jt0202** [comment]
changelog-library

File: src/Std/Data/DHashMap/Raw.lean [hunk 11]
```diff
@@ -483,11 +475,19 @@ implementation detail.
...
+/-- Transforms the hash map into a list of mappings in some order. -/
+@[inline] def toList (m : Raw α β) : List ((a : α) × β a) :=
+  m.foldRev (fun acc k v => ⟨k, v⟩ :: acc) []
+
+@[inline, inherit_doc Raw.toList] def Const.toList {β : Type v} (m : Raw α (fun _ => β)) :
+    List (α × β) :=
+  m.foldRev (fun acc k v => ⟨k, v⟩ :: acc) []
+
 instance [Repr α] [(a : α) → Repr (β a)] : Repr (Raw α β) where
   reprPrec m prec := Repr.addAppParen ("Std.DHashMap.Raw.ofList " ++ reprArg m.toList) prec
```
Comment (jt0202) [inline src/Std/Data/DHashMap/Raw.lean:490]: I moved the instance out of Unverified too, because otherwise it would not be possible to keep the unverified section in one part and have `toList` not be a part of it. Not sure which lemmas what be required for `Repr`

File: src/Std/Data/HashMap/Lemmas.lean [hunk 12]
```diff
@@ -698,6 +702,51 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+  DHashMap.Const.length_toList
+
+@[simp]
+theorem isEmpty_toList [EquivBEq α] [LawfulHashable α] :
+    m.toList.isEmpty = m.isEmpty :=
+  DHashMap.Const.isEmpty_toList
+
+theorem mem_toList_iff_get?_eq_some [LawfulBEq α]
+    {k : α} {v : β} :
+    (k, v) ∈ m.toList ↔  m[k]? = some v :=
```
Comment (kim-em) [inline src/Std/Data/HashMap/Lemmas.lean:717]:
```suggestion
    (k, v) ∈ m.toList ↔ m[k]? = some v :=
```

Comment (kim-em) [reply src/Std/Data/HashMap/Lemmas.lean:717]: Also, I thought that for now we were still naming such lemmas using `getElem?` rather than `get?`. I'm not opposed to fast-forwarding, as this is the name we eventually want to have.

File: src/Std/Data/HashMap/Lemmas.lean [hunk 13]
```diff
@@ -698,6 +702,51 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+  DHashMap.Const.mem_toList_iff_get?_eq_some
+
+theorem get?_eq_some_iff_exists_beq_and_mem_toList [EquivBEq α] [LawfulHashable α]
+    {k : α} {v : β} :
+    m[k]? = some v ↔ ∃ (k' : α), k == k' ∧ (k', v) ∈ m.toList :=
+  DHashMap.Const.get?_eq_some_iff_exists_beq_and_mem_toList
```
Comment (kim-em) [inline src/Std/Data/HashMap/Lemmas.lean:723]: I'm surprised to not see the `LawfulBEq` version without an existential.

File: src/Std/Data/HashMap/Lemmas.lean [hunk 14]
```diff
@@ -698,6 +702,51 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    m.toList.find? (·.1 == k) = none ↔ m.contains k = false :=
+  DHashMap.Const.find?_toList_eq_none_iff_contains_eq_false
+
+theorem find?_toList_eq_none_iff_not_mem [EquivBEq α] [LawfulHashable α]
+    {k : α} :
+    m.toList.find? (·.1 == k) = none ↔ ¬ k ∈ m :=
+  DHashMap.Const.find?_toList_eq_none_iff_not_mem
+
+theorem mem_toList_iff_getKey?_eq_some_and_getElem?_eq_some [EquivBEq α] [LawfulHashable α]
+    {k: α} {v : β} :
```
Comment (kim-em) [inline src/Std/Data/HashMap/Lemmas.lean:742]:
```suggestion
    {k : α} {v : β} :
```

Comment (kim-em) [reply src/Std/Data/HashMap/Lemmas.lean:742]: We really need a linter for this stuff...

File: src/Std/Data/HashMap/Lemmas.lean [hunk 15]
```diff
@@ -698,6 +702,51 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    (k, v) ∈ m.toList ↔ m.getKey? k = some k ∧ get? m k = some v :=
```
Comment (kim-em) [inline src/Std/Data/HashMap/Lemmas.lean:743]:
```suggestion
    (k, v) ∈ m.toList ↔ m.getKey? k = some k ∧ m[k]? = some v :=
```

File: src/Std/Data/HashMap/RawLemmas.lean [hunk 16]
```diff
@@ -705,6 +709,51 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] (h : m.WF) :
...
+
+@[simp]
+theorem isEmpty_toList [EquivBEq α] [LawfulHashable α] (h : m.WF) :
+    m.toList.isEmpty = m.isEmpty :=
+  DHashMap.Raw.Const.isEmpty_toList h.out
+
+theorem mem_toList_iff_getElem?_eq_some [LawfulBEq α] (h : m.WF)
+    {k : α} {v : β} :
+    (k, v) ∈ m.toList ↔ m[k]? = some v :=
+  DHashMap.Raw.Const.mem_toList_iff_get?_eq_some h.out
```
Comment (kim-em) [inline src/Std/Data/HashMap/RawLemmas.lean:725]: Oh, it's here, it just didn't get copied to `Lemmas`.

Could this be a `simp` lemma? Actually, the next lemma might be even better, assuming in the presence of `LawfulBEq` that its RHS continues simplifying.

File: src/Std/Data/HashMap/RawLemmas.lean [hunk 17]
```diff
@@ -705,6 +709,51 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] (h : m.WF) :
...
+    m.toList.find? (·.1 == k) = none ↔ m.contains k = false :=
+  DHashMap.Raw.Const.find?_toList_eq_none_iff_contains_eq_false h.out
+
+theorem find?_toList_eq_none_iff_not_mem [EquivBEq α] [LawfulHashable α]
+    (h : m.WF) {k : α} :
+    m.toList.find? (·.1 == k) = none ↔ ¬ k ∈ m :=
+  DHashMap.Raw.Const.find?_toList_eq_none_iff_not_mem h.out
+
+theorem mem_toList_iff_getKey?_eq_some_and_getElem_eq_some [EquivBEq α] [LawfulHashable α]
+    (h : m.WF) {k: α} {v : β} :
```
Comment (kim-em) [inline src/Std/Data/HashMap/RawLemmas.lean:749]:
```suggestion
    (h : m.WF) {k : α} {v : β} :
```

File: src/Std/Data/HashMap/RawLemmas.lean [hunk 18]
```diff
@@ -705,6 +709,51 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] (h : m.WF) :
...
+    (h : m.WF) {k : α} :
+    m.toList.find? (·.1 == k) = none ↔ m.contains k = false :=
+  DHashMap.Raw.Const.find?_toList_eq_none_iff_contains_eq_false h.out
+
+theorem find?_toList_eq_none_iff_not_mem [EquivBEq α] [LawfulHashable α]
+    (h : m.WF) {k : α} :
+    m.toList.find? (·.1 == k) = none ↔ ¬ k ∈ m :=
+  DHashMap.Raw.Const.find?_toList_eq_none_iff_not_mem h.out
+
+theorem mem_toList_iff_getKey?_eq_some_and_getElem_eq_some [EquivBEq α] [LawfulHashable α]
```
Comment (kim-em) [inline src/Std/Data/HashMap/RawLemmas.lean:748]: Move up with the other `mem_toList` lemmas?

File: src/Std/Data/Internal/List/Associative.lean [hunk 19]
```diff
@@ -1303,7 +1303,7 @@ theorem insertEntryIfNew_of_containsKey_eq_false [BEq α] {l : List ((a : α) ×
   simp_all [insertEntryIfNew]
 
 theorem DistinctKeys.insertEntryIfNew [BEq α] [PartialEquivBEq α] {k : α} {v : β k}
-    {l : List ((a : α) × β a)} (h: DistinctKeys l):
+    {l : List ((a : α) × β a)} (h: DistinctKeys l) :
```
Comment (kim-em) [inline src/Std/Data/Internal/List/Associative.lean:1306]:
```suggestion
    {l : List ((a : α) × β a)} (h : DistinctKeys l) :
```

File: src/Std/Data/HashMap/Lemmas.lean (hunk 13 above)
Comment (jt0202) [reply src/Std/Data/HashMap/Lemmas.lean:723]: This exists in the other direction `mem_toList_iff_getElem?_eq_some`, line 715.

**Comment by jt0202** [comment]
Interesting that "CI / Linux release (pull_request)" works again. Not sure what went wrong last time, seemed to be unconnected with my PR.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 20]
```diff
@@ -938,6 +938,10 @@ theorem getThenInsertIfNew?_snd {k : α} {v : β} :
 
 end Const
 
+theorem keys_eq_map_toList [EquivBEq α] [LawfulHashable α] :
+    m.1.keys = m.1.toList.map Sigma.fst :=
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:942]: I think the reverse direction of this would make a good `simp` lemma?

File: src/Std/Data/DHashMap/Raw.lean (hunk 11 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Raw.lean:490]: It's fine to have `Repr` outside of the unverified section even if it has no theorems.

File: src/Std/Data/HashMap/RawLemmas.lean (hunk 16 above)
Comment (TwoFX) [reply src/Std/Data/HashMap/RawLemmas.lean:725]: I don't think that we can make `simp` turn `m.getKey? k = some k` into `True` easily in the lemma below because that is only true if `k` is in the map. So I would suggest marking both as `simp` and making sure that `simp` prefers the `LawfulBEq` version (I think this will be the case if we swap the order of the theorems).

**Comment by TwoFX** [comment]
The `List/Associative` proofs can be shortened, see https://github.com/leanprover/lean4/commit/91824833f76cd4bbab4d7b18287f0afefc7252ec for how to get started.

**Comment by jt0202** [comment]
awaiting-review

File: src/Std/Data/Internal/List/Associative.lean [hunk 21]
```diff
@@ -1943,6 +1969,126 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+theorem mem_map_toProd_iff_getKey?_eq_some_and_getValue?_eq_some [BEq α] [EquivBEq α]
+    {β : Type v} {k: α} {v : β} {l : List ((_ : α) × β)} (h : DistinctKeys l) :
+    (k, v) ∈ l.map (fun x => (x.fst, x.snd)) ↔ getKey? k l = some k ∧ getValue? k l = some v := by
+  rw [← mem_map_toProd_iff_mem]
+  exact mem_iff_getKey?_eq_some_and_getValue?_eq_some h
+
+theorem pairwise_fst_eq_false_map_toProd [BEq α] {β : Type v}
+    {l : List ((_ : α) × β)} (h : DistinctKeys l) :
+    List.Pairwise (fun a b => (a.fst == b.fst) = false) (List.map (fun x => (x.fst, x.snd)) l)
+ := by
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean:2087]:
```suggestion
    List.Pairwise (fun a b => (a.fst == b.fst) = false) (List.map (fun x => (x.fst, x.snd)) l) := by
```
(as per the style guide)

File: src/Std/Data/Internal/List/Associative.lean [hunk 22]
```diff
@@ -1943,6 +1969,126 @@ theorem eraseKey_append_of_containsKey_right_eq_false [BEq α] {l l' : List ((a
...
+theorem mem_map_toProd_iff_getValue?_eq_some [BEq α] [LawfulBEq α] {β : Type v} {k : α} {v : β}
+    {l : List ((_ : α) × β)} (h : DistinctKeys l) :
+    ⟨k, v⟩ ∈ l.map (fun x => (x.fst, x.snd)) ↔ getValue? k l = some v := by
+  rw [← mem_map_toProd_iff_mem]
+  exact mem_iff_getValue?_eq_some h
+
+theorem find?_map_toProd_eq_some_iff_getKey?_eq_some_and_getValue?_eq_some [BEq α] [EquivBEq α]
+    {β : Type v} {k k': α} {v : β} {l : List ((_ : α) × β)} :
+    (l.map (fun x => (x.fst, x.snd))).find? (fun a => a.1 == k) = some (k', v)
+    ↔ getKey? k l = some k' ∧ getValue? k l = some v := by
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean:2044]:
```suggestion
    (l.map (fun x => (x.fst, x.snd))).find? (fun a => a.1 == k) = some (k', v) ↔
      getKey? k l = some k' ∧ getValue? k l = some v := by
```
(as per the style guide)

**Review by TwoFX — COMMENTED** [review]
Could you add https://github.com/leanprover/lean4/commit/5a21fa948411f2489db1f83a75a9b10d37a04b2e to your PR? It's a quick test that `simp` applies the right lemmas in lawful and non-lawful contexts.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 23]
```diff
@@ -963,6 +963,107 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+
+@[simp]
+theorem mem_toList_iff_get?_eq_some [LawfulBEq α]
+    {k : α} {v : β} :
+    (k, v) ∈ toList m ↔ get? m k = some v :=
+  Raw₀.Const.mem_toList_iff_get?_eq_some ⟨m.1, m.2.size_buckets_pos⟩ m.2
+
+@[simp]
+theorem mem_toList_iff_getKey?_eq_some_and_get?_eq_some [EquivBEq α] [LawfulHashable α]
+    {k: α} {v : β} :
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:1034]:
```suggestion
    {k : α} {v : β} :
```

File: src/Std/Data/HashMap/Lemmas.lean [hunk 24]
```diff
@@ -698,6 +698,58 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
     m.keys.Pairwise (fun a b => (a == b) = false) :=
   DHashMap.distinct_keys
 
+@[simp]
+theorem map_prod_fst_toList_eq_keys [EquivBEq α] [LawfulHashable α] :
+    (toList m).map Prod.fst = m.keys :=
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean:703]:
```suggestion
    m.toList.map Prod.fst = m.keys :=
```

File: src/Std/Data/HashMap/Lemmas.lean [hunk 25]
```diff
@@ -698,6 +698,58 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    m.toList.find? (fun a => a.1 == k) = some ⟨k', v⟩ ↔
+      m.getKey? k = some k' ∧ get? m k = some v :=
+  DHashMap.Const.find?_toList_eq_some_iff_getKey?_eq_some_and_get?_eq_some
+
+theorem find?_toList_eq_none_iff_contains_eq_false [EquivBEq α] [LawfulHashable α]
+    {k : α} :
+    m.toList.find? (·.1 == k) = none ↔ m.contains k = false :=
+  DHashMap.Const.find?_toList_eq_none_iff_contains_eq_false
+
+theorem find?_toList_eq_none_iff_not_mem [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/HashMap/Lemmas.lean:744]: This one should make a good `@[simp]` lemma I think.

**Comment by jt0202** [comment]
awaiting-review

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 26]
```diff
@@ -963,6 +963,108 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] :
...
+    {k : α} {v : β k} :
+    m.toList.find? (·.1 == k) = some ⟨k, v⟩ ↔ m.get? k = some v :=
+  Raw₀.find?_toList_eq_some_iff_get?_eq_some ⟨m.1, m.2.size_buckets_pos⟩ m.2
+
+theorem find?_toList_eq_none_iff_contains_eq_false [EquivBEq α] [LawfulHashable α]
+    {k : α} :
+    m.toList.find? (·.1 == k) = none ↔ m.contains k = false :=
+  Raw₀.find?_toList_eq_none_iff_contains_eq_false ⟨m.1, m.2.size_buckets_pos⟩ m.2
+
+theorem find?_toList_eq_none_iff_not_mem [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:997]: For consistency with the non-dependent version.
```suggestion
@[simp]
theorem find?_toList_eq_none_iff_not_mem [EquivBEq α] [LawfulHashable α]
```

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 27]
```diff
@@ -1052,6 +1052,111 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] (h : m.WF) :
...
+    (h : m.WF) {k : α} {v : β k} :
+    m.toList.find? (·.1 == k) = some ⟨k, v⟩ ↔ m.get? k = some v := by
+  simp_to_raw using Raw₀.find?_toList_eq_some_iff_get?_eq_some ⟨m, _⟩ h
+
+theorem find?_toList_eq_none_iff_contains_eq_false [EquivBEq α] [LawfulHashable α]
+    (h : m.WF) {k : α} :
+    m.toList.find? (·.1 == k) = none ↔ m.contains k = false := by
+  simp_to_raw using Raw₀.find?_toList_eq_none_iff_contains_eq_false ⟨m, _⟩ h
+
+theorem find?_toList_eq_none_iff_not_mem [EquivBEq α] [LawfulHashable α]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/RawLemmas.lean:1086]:
```suggestion
@[simp]
theorem find?_toList_eq_none_iff_not_mem [EquivBEq α] [LawfulHashable α]
```

File: src/Std/Data/DHashMap/RawLemmas.lean [hunk 28]
```diff
@@ -1052,6 +1052,111 @@ theorem distinct_keys [EquivBEq α] [LawfulHashable α] (h : m.WF) :
     m.keys.Pairwise (fun a b => (a == b) = false) := by
   simp_to_raw using Raw₀.distinct_keys ⟨m, h.size_buckets_pos⟩ h
 
+@[simp]
+theorem map_sigma_fst_toList_eq_keys [EquivBEq α] [LawfulHashable α] (h : m.WF):
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/RawLemmas.lean:1056]:
```suggestion
theorem map_sigma_fst_toList_eq_keys [EquivBEq α] [LawfulHashable α] (h : m.WF) :
```

**Review by TwoFX — APPROVED** [review]
Great work as always, thanks!
